US04898455
A mixture of 0.355 g of crude p-(5-octyl-2-pyridyl)-phenol, 10 ml of ethanol, 0.260 g of (S)-6-methyloctyl bromide, 0.172 g of potassium carbonate and a spatula tip of sodium iodide was heated to 90° C. (oil bath temperature) for about 60 hours while stirring. The brown suspension obtained was subsequently cooled and concentrated in a vacuum. The brown oily residue was separated by chromatography on 120 g of silica gel at 0.4 bar with methylene chloride/acetone (vol. 99:1). The resulting brownish paste (0.367 g) was dissolved in about 5 ml of hexane, the solution was filtered and the filtrate was cooled to -25° C. The precipitate was filtered off under suction and distilled at 250° C/0.05 bar, there being obtained 0.122 g of (S)-2-[p-(6-methyloctyloxy)phenyl]-5-octylpyridine as a light yellowish smectic liquid crystal. Concentration of the mother liquor and subsequent distillation gave a further 0.164 g of (S)-2-[p-(6-methyloctyloxy)phenyl]-5-octylpyridine as a light yellowish smectic liquid crystal. The product (total 0.286 g) was treated with diethyl ether, evaporated, dried at 80° C. for 2 hours and again distilled, there being obtained 0.245 g of (S)-2-[p-(6-methyloctyloxy)phenyl]-5-octylpyridine; m.p. (C-S) 36.1° C., phase transition (S--Sc*) 57° C., cl.p. (Sc* --I) 70.4° C.

reactant | p-(5-octyl-2-pyridyl)-phenol | 0.355 g | C(CCCCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)O | C19H25NO
reactant | (S)-6-methyloctyl bromide | 0.260 g | C[C@H](CCCCCBr)CC | C9H19Br
reactant | potassium carbonate | 0.172 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (S)-2-[p-(6-methyloctyloxy)phenyl]-5-octylpyridine | 0.122 g | C[C@H](CCCCCOC1=CC=C(C=C1)C1=NC=C(C=C1)CCCCCCCC)CC | C28H43NO
